US05733912
16a. 3-Benzyloxy-5-bromopyridine
Sodium hydride (60% in mineral oil, 40.9 g, 1.0 mol) in DMF (800 mL) was cooled to 0° C., and benzyl alcohol (105 mL, 1.0 mol) was slowly added. After stirring for 1 hour at ambient temperature, 3,5-dibromopyridine (200.4 g, 846 mmol) was added and the mixture allowed to stir for 16 hours. Saturated NH4Cl solution (500 mL) was added followed by water (400 mL), and the mixture was extracted with Et2O (5×300 mL). The combined Et2O extracts were washed with 50% brine (6×300 mL), dried (MgSO4), concentrated and the residue recrystallized from Et2O to afford a white solid (161 g, 72%): 1H NMR (CDCl3, 300 MHz) δ5.10 (s, 2H), 7.50-7.35 (m, 6H), 8.37-8.27 (m, 2H); MS (CI/NH3) m/z: 264/266 (M+H)+.

reactant | Sodium hydride | 1.0 mol, 40.9 g | [H-].[Na+]
reactant | benzyl alcohol | 1.0 mol, 105 mL | C(C1=CC=CC=C1)O | C7H8O
reactant | 3,5-dibromopyridine | 846 mmol, 200.4 g | BrC=1C=NC=C(C1)Br | C5H3Br2N
reactant | NH4Cl | 500 mL | [NH4+].[Cl-]
solvent | DMF | 800 mL | CN(C)C=O | C3H7NO
solvent | water | 400 mL | O | H2O
product | 3-Benzyloxy-5-bromopyridine | 161 g, 72% | C(C1=CC=CC=C1)OC=1C=NC=C(C1)Br | C12H10BrNO
